Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
morphine / Bacitracin / Augmentin / Vagifem
 
Attending: ___
 
Chief Complaint:
Endometrial cancer 
 
Major Surgical or Invasive Procedure:
Laparoscopy, total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, laparoscopic pelvic lymphadenectomy, 
cystoscopy.

 
History of Present Illness:
Ms. ___ is a ___ woman who developed postmenopausal 
bleeding earlier this year.  A biopsy revealed a high-grade 
endometrial cancer.  A CT scan of the abdomen and pelvis was 
performed to rule evidence of metastatic disease.  A pelvic MRI 
was done in followup.  The CT scan revealed a right symphysis 
pubis lytic lesion and additional imaging revealed abnormal 
tracer uptake.  A biopsy of this revealed a focus of metastatic 
cancer.  This biopsy was performed just last week.  A CT scan of 
the chest did not reveal any abnormalities.  Imaging studies 
revealed that the uterus is normally sized measuring 6.3 x 3.7 x 
5.1 cm.  The endometrial thickness is 5 mm. There is no evidence 
of ascites or adenopathy.  The ovaries are normal in appearance. 
Prior to admission she denied any vaginal bleeding or pelvic 
pain related to the pubic symphysis metastasis which is less 
than 2 cm in greatest dimension.

 
Past Medical History:
Occasional reflux disease 

 
Social History:
___
Family History:
She reports a maternal grandmother had breast cancer.  There is 
no family history of ovarian or uterine cancer. She reports that 
her father had colon cancer as well as prostate cancer.

 
Physical Exam:
Day of discharge: 
AVSS
General: comfortable, in no acute distress
Heart: RRR, no murmurs 
Lungs: CTAB
Abdomen: soft, nondistended, appropriately tender, incision with 
no erythema or discharge, staples intact 
GU: minimal vaginal bleeding  
Extremities: no edema or TTP

 
Pertinent Results:
___ 12:53PM BLOOD WBC-11.6* RBC-4.03* Hgb-12.8 Hct-37.4 
MCV-93 MCH-31.9 MCHC-34.4 RDW-12.6 Plt ___
___ 12:53PM BLOOD Glucose-110* UreaN-10 Creat-0.6 Na-142 
K-3.4 Cl-106 HCO3-27 AnGap-12
___ 06:45AM BLOOD WBC-8.6 RBC-4.06* Hgb-13.0 Hct-37.4 
MCV-92 MCH-32.2* MCHC-34.8 RDW-12.6 Plt ___

Final pathology pending

 
Brief Hospital Course:
Ms. ___ was admitted to the gynecology oncology service 
after undergoing a total laparascopic hysterectomy and bilateral 
salpingo-oophorectomy, pelvic lymph node sampling, and 
cystoscopy . Please see the operative report for full details.

Her post-operative course was uncomplicated.  By postoperative 
day 1, she was ambulating, tolerating a regular diet and oral 
pain medications, and voiding without difficulty.  She was 
therefore discharged in stable condition with outpatient 
follow-up scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 0.5 mg PO HS:PRN insomnia 
2. Ranitidine 150 mg PO Frequency is Unknown 

 
Discharge Medications:
1. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1
2. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
do not take if feeling sedated 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*50 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium 100 mg ___ capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*3
4. Lorazepam 0.5 mg PO QHS:PRN insomnia 
5. Ranitidine 150 mg PO PRN GERD 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic endometrial cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Mental Status: Confused - sometimes.
Mental Status: Confused - always.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10lbs for ___ weeks.  
* You may eat a regular diet  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site gauze dressings tomorrow. You 
have steri-strips, leave them on. If they are still on after 
___ days from surgery, you may remove them.   
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___